US06362341B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-D,L-phenyalanyl-β-alanine Ethyl Ester
To N-(toluene-4-sulfonyl)-L-prolyl-L-phenylalanine (˜2 eq.) in DMF was added BOP (˜2.1 eq.) and NMM (˜4 eq.), and the reaction was stirred at room temperature for about 45 minutes. β-alanine ethyl ester (˜2 eq.) was added and the reaction stirred for about 16 hours at room temperature. The reaction mixture was extracted with water and diethyl ether. The combined organic solution was then washed with 0.2 N HCl, sat. NaHCO3 and sat. NaCl solutions. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (50% EtOAc/Hexane, Rf=0.18) to yield the title compound as a colorless oil, which was determined to be a mixture of diastereomers by NMR.

reactant | N-(toluene-4-sulfonyl)-L-prolyl-L-phenylalanine | ˜2 eq. | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1)C | C21H24N2O5S
reactant | BOP | ˜2.1 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | NMM | ˜4 eq. | CN1CCOCC1 | C5H11NO
reactant | β-alanine ethyl ester | ˜2 eq. | C(C)OC(CCN)=O | C5H11NO2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(Toluene-4-sulfonyl)-L-prolyl-D,L-phenyalanyl-β-alanine Ethyl Ester | C(C)OC(CCNC(C(NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=CC=C1)=O)=O | C26H33N3O6S
